US04212874
In 50 ml of ethanol were dissolved 5.5 g of 3-methylisoxazole-5-carbaldehyde and 3.3 g of nitromethane. To the solution was added dropwise a solution of sodium ethoxide in ethanol, which had been prepared from 1.5 g of sodium and 30 ml of ethanol, while stirring at room temperature. After dropping the resultant was stirred for a further 3 hrs. at room temperature and then ether was added thereto to separate the sodium salt. This was dissolved in water, which was followed by acidification with hydrochloric acid. The resulting precipitate was filtered off and recrystallized from chloroform to obtain 5.4 g of (3-methylisoxazole-5-yl)glyoxal-2-oxim having m.p. of 179° C.-180° C. Yield, 70%; Elemental Analysis (C6H6N2O3):

reactant | 3-methylisoxazole-5-carbaldehyde | 5.5 g | CC1=NOC(=C1)C=O | C5H5NO2
reactant | nitromethane | 3.3 g | [N+](=O)([O-])C | CH3NO2
reactant | sodium ethoxide | [O-]CC.[Na+]
reactant | sodium | 1.5 g | [Na] | Na
solvent | ethanol | 50 ml | C(C)O | C2H6O
solvent | ethanol | 30 ml | C(C)O | C2H6O
solvent | ether | CCOCC | C4H10O
product | (3-methylisoxazole-5-yl)glyoxal-2-oxim | 5.4 g | CC1=NOC(=C1)C(=O)C=NO | C6H6N2O3
